US07932242B2
(E)-5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxyphenyl dibenzyl phosphate
To a stirred solution of 5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxy-phenol (1.9 g, 4.8 mmol) in acetonitrile (24 mL) at room temperature, was added carbon tetrabromide (1.94 g, 1.22 eq) and triethylamine (0.728 g, 1.5 eq). The resulting mixture was stirred for 10 minutes and than cooled to 0° C. in an ice-water bath. Dibenzyl phosphite (1.51 g, 1.2 eq) dissolved in acetonitrile (16 mL) was added dropwise to the cooled reaction mixture. The reaction mixture was stirred for 2 h and monitored by TLC. The reaction was terminated by dropwise addition of aqueous potassium dihydrogen phosphate (10 mL, 0.5 M). The resulting mixture was extracted with ethyl acetate (3×30 mL). The combined organic extract was dried (Na2SO4) and concentrated in vacuo to yield the desired product.

reactant | 5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxy-phenol | 4.8 mmol, 1.9 g | COC1=C(C=CS(=O)(=O)CC=2C=CC(=C(C2)O)OC)C(=CC(=C1)OC)OC | C19H22O7S
reactant | carbon tetrabromide | 1.94 g, 1.22 eq | C(Br)(Br)(Br)Br | CBr4
reactant | triethylamine | 0.728 g, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | Dibenzyl phosphite | 1.51 g, 1.2 eq | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
solvent | acetonitrile | 24 mL | C(C)#N | C2H3N
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
product | (E)-5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxyphenyl dibenzyl phosphate | P(=O)(OC1=C(C=CC(=C1)CS(=O)(=O)\C=C\C1=C(C=C(C=C1OC)OC)OC)OC)(OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C33H35O10PS
